US07855219B2
2-Amino-4-(2,3-dihydro-1,4-benzodioxin-6-yl)-6-[(2-methyl-1,3-thiazol-4-yl)-methoxy]-3,5-pyridinedicarbonitrile
100 mg (0.26 mmol) of 2-amino-4-(2,3-dihydro-1,4-benzodioxin-6-yl)-6-(phenylsulfanyl)-3,5-pyridinedicarbonitrile [prepared analogously to Kambe et al., Synthesis, 531-533 (1981)] are, together with 44 mg (0.39 mmol) of potassium tert-butoxide and 334 mg (2.59 mmol) of (2-methyl-1,3-thiazol-4-yl)methyl alcohol, stirred in 5 ml of 1,2-dimethoxyethane at room temperature overnight. The reaction solution is concentrated under reduced pressure and the residue is then purified by preparative HPLC on reversed-phase silica gel.

reactant | 2-amino-4-(2,3-dihydro-1,4-benzodioxin-6-yl)-6-(phenylsulfanyl)-3,5-pyridinedicarbonitrile | 0.26 mmol, 100 mg | NC1=NC(=C(C(=C1C#N)C1=CC2=C(OCCO2)C=C1)C#N)SC1=CC=CC=C1 | C21H14N4O2S
reactant | potassium tert-butoxide | 0.39 mmol, 44 mg | CC(C)([O-])C.[K+]
reactant | (2-methyl-1,3-thiazol-4-yl)methyl alcohol | 2.59 mmol, 334 mg | CC=1SC=C(N1)CO | C5H7NOS
solvent | 1,2-dimethoxyethane | 5 ml | COCCOC | C4H10O2
product | 2-Amino-4-(2,3-dihydro-1,4-benzodioxin-6-yl)-6-[(2-methyl-1,3-thiazol-4-yl)-methoxy]-3,5-pyridinedicarbonitrile | NC1=NC(=C(C(=C1C#N)C1=CC2=C(OCCO2)C=C1)C#N)OCC=1N=C(SC1)C | C20H15N5O3S
